US08247430B2
N-(2-((3-amino-5-(trifluoromethyl)phenyl)oxy)ethyl)methanesulfonamide
N-(2-((3-Nitro-5-(trifluoromethyl)phenyl)oxy)ethyl)-methanesulfonamide (1.7 g, 5.2 mmols, 1 eq) was dissolved in 50 L of MeOH. 10% Pd/C (170 mg, 10 weight %) was added and the reaction sparged with H2. The suspension was stirred for 5 h, then filtered trough Celite. The filtrate was stripped to yield the title compound.

reactant | N-(2-((3-Nitro-5-(trifluoromethyl)phenyl)oxy)ethyl)-methanesulfonamide | 5.2 mmols, 1.7 g, 1 eq | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)OCCNS(=O)(=O)C | C10H11F3N2O5S
solvent | MeOH | 50 L | CO | CH4O
catalyst | Pd/C | 170 mg | [Pd] | Pd
product | N-(2-((3-amino-5-(trifluoromethyl)phenyl)oxy)ethyl)methanesulfonamide | NC=1C=C(C=C(C1)C(F)(F)F)OCCNS(=O)(=O)C | C10H13F3N2O3S
